US07544701B2
Preparation of 1-[(5-Chlorothien-2-yl)sulfonyl]-3-[2-(dimethylamino)ethyl]-1,3-dihydro-2H-benzimidazol-2-one
A solution of 1-[2-(dimethylamino)ethyl]-1,3-dihydrobenzimidazol-2-one (20 mg, 0.1 mmol) in THF at room temperature is treated with (5-chlorothien-2-yl)sulfonyl chloride (26 mg, 0.12 mmol) followed by diisopropylethylamine (25 uL, 0.2 mmol) and dimethylaminopyridine (5 mg), stirred at room temperature for 16 hours and concentrated in vacuo. The resultant residue is dissolved in a mixture of dimethylsulfoxide, methanol and water and purified by Gilson1 preparative HPLC to give the title product, 16 mg, [M+H] 386, retention time (RT) 2.83 minutes. 1Gilson Preparative HPLC conditions: Gilson Preparative HPLC system; YMC Pro C18, 20 mm×50 mm ID, 5 uM column; 2 mL injection; Solvent A: 0.02% TFA/water; Solvent B:0.02% TFA/acetonitrile; Gradient: Time 0: 95% A; 2 min: 95% A; 14 min: 10% A, 15 min: 10% A, 16 min: 95% A; Flow rate 22.5 mL/min; Detection: 254 nm DAD.

reactant | 1-[2-(dimethylamino)ethyl]-1,3-dihydrobenzimidazol-2-one | 0.1 mmol, 20 mg | CN(CCN1C(NC2=C1C=CC=C2)=O)C | C11H15N3O
reactant | (5-chlorothien-2-yl)sulfonyl chloride | 0.12 mmol, 26 mg | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
reactant | diisopropylethylamine | 0.2 mmol, 25 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylaminopyridine | 5 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | THF | C1CCOC1 | C4H8O
product | 1-[(5-Chlorothien-2-yl)sulfonyl]-3-[2-(dimethylamino)ethyl]-1,3-dihydro-2H-benzimidazol-2-one | ClC1=CC=C(S1)S(=O)(=O)N1C(N(C2=C1C=CC=C2)CCN(C)C)=O | C15H16ClN3O3S2
